US05296489
a) 17-Allyl-1-chloro-14-hydroxy-12-[2-(4-hydroxy-3-methoxycyclohexyl)-1-methylvinyl]-23,25-dimethoxy-13,19,21.27-tetramethyl-11,28-dioxa-4-azatricyclo [22.3.1.04,9 ]octacos-18-ene-2.3,10,16-tetraone
A solution of FR-900506 (500 mg) in dry dichloromethane (25 ml) was added dropwise over 1 minute to a stirred, cool (0° C.) solution of thionyl chloride (0.45 ml) and pyridine (1.11 ml) in dry dichloromethane (20 ml) under nitrogen. After 20 minutes, saturated aqueous sodium hydrogen carbonate solution was added and the mixture was stirred at room temperature for 20 minutes. The organic extract was then separated and washed with dilute aqueous hydrochloric acid (1M, 20 ml), water (20 ml) and brine (10 ml) before being dried (MgSO4), filtered and evaporated in vacuo to give the sub-title compound as an an oil (512 mg).

reactant | FR-900506 | 500 mg | C[C@@H]1C[C@@H]([C@@H]2[C@H](C[C@H]([C@@](O2)(C(=O)C(=O)N3CCCC[C@H]3C(=O)O[C@@H]([C@@H]([C@H](CC(=O)[C@@H](/C=C(/C1)\C)CC=C)O)C)/C(=C/[C@@H]4CC[C@H]([C@@H](C4)OC)O)/C)O)C)OC)OC | C44H69NO12
reactant | thionyl chloride | 0.45 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 1.11 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 17-Allyl-1-chloro-14-hydroxy-12-[2-(4-hydroxy-3-methoxycyclohexyl)-1-methylvinyl]-23,25-dimethoxy-13,19,21.27-tetramethyl-11,28-dioxa-4-azatricyclo [22.3.1.04,9 ]octacos-18-ene-2.3,10,16-tetraone | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)Cl)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C44H68ClNO11
